US07524841B2
The 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester (1.0 g, 4.30 mmol) synthesized in Reference Example 3 was dissolved in acetonitrile (30.0 mL), and the solution was cooled to 0° C. A solution of 1,1′-thiocarbonyldiimidazole (844 mg, 4.73 mmol) and imidazole (88 mg, 1.30 mmol) in acetonitrile (10 mL) was added dropwise thereto, and the mixture was stirred at room temperature for 2 hours. Next, 2-amino-5-fluorobenzenesulfonamide (981 mg, 5.16 mmol) and dimethylaminopyridine (630 mg, 5.16 mmol) were added to the reaction mixture which was then stirred at 80° C. overnight. Diisopropylcarbodiimide (0.662 mL, 4.30 mmol) was added thereto, and the mixture was stirred for 1 hour. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (50 mL). This was washed with water (20 mL) and saturated brine (20 mL), and then dried over anhydrous sodium sulfate. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:2→2:3) to obtain 4-fluoro-4-{[(7-fluoro-1,1-dioxo-4H-benzo[e]1,2,4-thiadiazine-3-yl)amino]methyl}piperidinecarboxylic acid tert-butyl ester.

reactant | 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester | 4.30 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN | C11H21FN2O2
reactant | 1,1′-thiocarbonyldiimidazole | 4.73 mmol, 844 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 1.30 mmol, 88 mg | N1C=NC=C1 | C3H4N2
reactant | 2-amino-5-fluorobenzenesulfonamide | 5.16 mmol, 981 mg | NC1=C(C=C(C=C1)F)S(=O)(=O)N | C6H7FN2O2S
reactant | dimethylaminopyridine | 5.16 mmol, 630 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Diisopropylcarbodiimide | 4.30 mmol, 0.662 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 30.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-fluoro-4-{[(7-fluoro-1,1-dioxo-4H-benzo[e]1,2,4-thiadiazine-3-yl)amino]methyl}piperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC1=NS(C2=C(N1)C=CC(=C2)F)(=O)=O)F | C18H24F2N4O4S
